US09278983B2
A mixture of N-propyl-5-trifluoromethylpyridin-2,3-diamine (770 mg), 2-ethylsulfanyl-benzoic acid (700 mg), WSC (740 mg), and pyridine (20 ml) was stirred with heating at 95° C. for 7 hours. Into the reaction mixture cooled to room temperature, saturated aqueous sodium carbonate solution was poured, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 422 mg of 2-ethylsulfanyl-N-(2-propylamino-5-trifluoromethylpyridin-3-yl)-benzamide (Compound (1B)-513).

reactant | N-propyl-5-trifluoromethylpyridin-2,3-diamine | 770 mg | C(CC)NC1=NC=C(C=C1N)C(F)(F)F | C9H12F3N3
reactant | 2-ethylsulfanyl-benzoic acid | 700 mg | C(C)SC1=C(C(=O)O)C=CC=C1 | C9H10O2S
reactant | WSC | 740 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-ethylsulfanyl-N-(2-propylamino-5-trifluoromethylpyridin-3-yl)-benzamide | 422 mg | C(C)SC1=C(C(=O)NC=2C(=NC=C(C2)C(F)(F)F)NCCC)C=CC=C1 | C18H20F3N3OS
